US06867211B2
c) Ethyl 4-[2-(4-fluorophenyl)-1-methyl-6,7-dihydro-5H-pyrrolizine-3-yl]-4H-pyridine-1-carboxylate
The solution of 6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine (1.72 g, 8.0 mmol) in CH2Cl2 (55 ml) is firstly treated at 0° C. (ice bath) with pyridine (1.6 ml, 1.58 g, 20 mmol) and dropwise with the solution of ethyl chloroformate (2.1 g, 19.5 mmol) in CH2Cl2 (25 ml) (10 min). After a temperature rise to 3-6° C., the cooling agent is removed and the mixture is stirred for 1 h at RT, then heated to boiling temperature (36° C.) for 15 min. Then and after refluxing for a further hour, in each case 2 further portions of pyridine (each 0.8 ml, 10 mmol) and chloroformic acid (each 1.05 g, 10 mmol) are added dropwise and after a total of 3 h the reaction is terminated. The dark-colored batch solution is poured onto ice water (100 ml), stirred for 15 min and then the phases are separated. The water phase is extracted with CH2Cl2 (100 ml) and the combined organic phase is washed with water (50 ml), dried (Na2SO4 sicc.) and concentrated. As a residue, 2.69 g of dark oil (91.9% crude) remain which still contains residues of unreacted 6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine and was employed without further purification in the next stage.

reactant | 6-(4-fluorophenyl)-7-methyl-2,3-dihydro-1H-pyrrolizine | 8.0 mmol, 1.72 g | FC1=CC=C(C=C1)C1=CN2CCCC2=C1C | C14H14FN
reactant | pyridine | 20 mmol, 1.6 ml, 1.58 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 19.5 mmol, 2.1 g | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 55 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-[2-(4-fluorophenyl)-1-methyl-6,7-dihydro-5H-pyrrolizine-3-yl]-4H-pyridine-1-carboxylate | FC1=CC=C(C=C1)C=1C(=C2CCCN2C1C1C=CN(C=C1)C(=O)OCC)C | C22H23FN2O2
